US07700655B2
(3) 5-Cyanosalicylic acid
Ethanol (10 mL) and tetrahydrofuran (10 mL) were added to 2-benzyloxy-5-cyanobenzoic acid benzyl ester (446 mg, 1.3 mmol) and 5% palladium on carbon (45 mg), and the mixture was hydrogenated at room temperature for 2 hours. After the insoluble matter was filtered off, the solvent was evaporated under reduced pressure to give the title compound (212 mg, 100.0%) as a white solid.

reactant | Ethanol | 10 mL | C(C)O | C2H6O
reactant | 2-benzyloxy-5-cyanobenzoic acid benzyl ester | 1.3 mmol, 446 mg | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)C#N)OCC1=CC=CC=C1)=O | C22H17NO3
catalyst | palladium on carbon | 45 mg | [Pd] | Pd
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-Cyanosalicylic acid | 212 mg, 100.0% | C(#N)C1=CC=C(C(C(=O)O)=C1)O | C8H5NO3
